US07772285B2
9.05 g of hydroxylamine hydrochloride was dissolved in 84 mL of methanol, to which 40.64 g of a 28% solution of sodium methoxide in methanol was added at room temperature, and then this mixture was stirred for 10 minutes. Then, 21 mL of a solution of 7.00 g of methyl 2-hydroxy-4-methylsalicylate in methanol was added dropwise to the reaction mixture, which was stirred for one hour at room temperature and then another four hours while heating it under reflux. The reaction mixture was added to water, and adjusted to pH 5 with 6M hydrochloric acid, and then resultant precipitate was filtered out thereof. The resultant solid was washed with water and diisopropyl ether successively to yield 5.95 g of N,2-dihydroxy-4-methylbenzamide as light yellow solid.

reactant | hydroxylamine hydrochloride | 9.05 g | Cl.NO
reactant | methyl 2-hydroxy-4-methylsalicylate | 7.00 g | OC1(C(C(=O)OC)C=CC(=C1)C)O | C9H12O4
reactant | water | O | H2O
reactant | hydrochloric acid | 6M | Cl | ClH
solvent | methanol | 84 mL | CO | CH4O
solvent | sodium methoxide | C[O-].[Na+]
product | N,2-dihydroxy-4-methylbenzamide | 5.95 g | ONC(C1=C(C=C(C=C1)C)O)=O | C8H9NO3
